US04517184
A solution of 20 g of bisphosphorus pentoxide in 200 ml of methanesulfonic acid is poured over 20.7 g (0.1 mol) of 2-bromobenzoic acid and 15.2 g (0.1 mol) of 1,2-dimethoxy-4-methylbenzene, and the mixture is heated, with stirring, for 30 minutes at 70° C. The mixture is then poured into ice-water and extracted with ether. After concentration by evaporation, the ether extracts yield (2-bromophenyl)-(3,4-dimethoxy-6-methylphenyl)-methanone as a brown product of honey-like consistency.

reactant | 2-bromobenzoic acid | 0.1 mol, 20.7 g | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | 1,2-dimethoxy-4-methylbenzene | 0.1 mol, 15.2 g | COC1=C(C=C(C=C1)C)OC | C9H12O2
solvent | methanesulfonic acid | 200 ml | CS(=O)(=O)O | CH4O3S
product | (2-bromophenyl)-(3,4-dimethoxy-6-methylphenyl)-methanone | BrC1=C(C=CC=C1)C(=O)C1=CC(=C(C=C1C)OC)OC | C16H15BrO3
